US07129238B2
A mixture of (RS)-methoxy-(3-nitro-phenyl)-acetic acid methyl ester (1.039 g) and NaOH (0.239 g) in water (0.75 ml) and methanol (10 ml) was stirred at 0° C. for 4.5 h. The reaction mixture was then concentrated (rotavapor, high vac.) and the residue (light yellow solid) was taken in water (25 ml). The resulting solution was acidified to pH˜1 by dropwise addition of 3.0 N HCl. This was extracted with EtOAc (50 ml+25 ml). The combined organics were dried (MgSO4), filtered and concentrated (rotavapor) to leave the crude (RS)-methoxy-(3-nitro-phenyl)-acetic acid (0.944 g) as a light yellow solid.

reactant | (RS)-methoxy-(3-nitro-phenyl)-acetic acid methyl ester | 1.039 g | COC(C(C1=CC(=CC=C1)[N+](=O)[O-])OC)=O | C10H11NO5
reactant | NaOH | 0.239 g | [OH-].[Na+]
solvent | water | 0.75 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | (RS)-methoxy-(3-nitro-phenyl)-acetic acid | 0.944 g | COC(C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO5
